US07601711B2
(RS)-(4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-methanone
The title compound was synthesized in analogy to example 51, from (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone (example 42, intermediate a)), sodium hydride and 2,2,2-trifluoroethyl methanesulfonate in N,N-dimethylformamide, to give the desired product as a colorless foam (73%).

reactant | (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)F | C21H26F2N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl methanesulfonate | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (RS)-(4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-methanone | 73% | FC1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)CC(F)(F)F)F | C23H27F5N4O2
